US04705853
2-[2-(1-Azetidinyl)ethyl]-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepin-5(4H)-one oxalate [1:1]
To 30 ml of dimethyl sulfoxide was added 3.5 g (0.011 mole) of 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepin-5(4H)-one, 1.3 g (0.022 mole) of azetidine, and 10 g of potassium carbonate. The reaction mixture was stirred at room temperature for 24 hr and 1.18 g (0.021 mole) of azetidine was added. After 48 hr, the reaction mixture was poured into 500 ml of water and extracted with 3×100 ml of toluene. The combined organic extracts were washed with 2×150 ml of water, dried over anhydrous sodium sulfate, filtered, and concentrated by rotary evaporation. The residue was treated with oxalic acid in isopropyl alcohol to give 3.0 g (65%) of white analytically pure crystals, m.p. 163°-166° C.

reactant | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepin-5(4H)-one | 0.011 mole, 3.5 g | ClCCC1OC2=C(C(N(C1)C)=O)C=C(C=C2)C(F)(F)F | C13H13ClF3NO2
reactant | azetidine | 0.022 mole, 1.3 g | N1CCC1 | C3H7N
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | azetidine | 0.021 mole, 1.18 g | N1CCC1 | C3H7N
solvent | water | 500 ml | O | H2O
product | 2-[2-(1-Azetidinyl)ethyl]-2,3-dihydro-4-methyl-7-(trifluoromethyl)-1,4-benzoxazepin-5(4H)-one oxalate | C(C(=O)O)(=O)O.N1(CCC1)CCC1OC2=C(C(N(C1)C)=O)C=C(C=C2)C(F)(F)F | InChI=1S/C16H19F3N2O2.C2H2O4/c1-20-10-12(5-8-21-6-2-7-21)23-14-4-3-11(16(17,18)19)9-13(14)15(20)22;3-1(4)2(5)6/h3-4,9,12H,2,5-8,10H2,1H3;(H,3,4)(H,5,6)
